US05495037
4-(10-Undecen-1-yloxy)biphenyl-4'-carboxylic acid (I-27).
The procedures of Preparation Examples 18-20 were repeated except that 6 g 4-hydroxyl benzoic acid was replaced by 9.3 g 4-hydroxybiphenyl-4'-carboxylic acid, Yield: I-25: 67%; I-26: 89.8%; I-27: 80.6%. 1H-NMR:

reactant | 4-hydroxyl benzoic acid | 6 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | 4-hydroxybiphenyl-4'-carboxylic acid | 9.3 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H10O3
product | 4-(10-Undecen-1-yloxy)biphenyl-4'-carboxylic acid | C(CCCCCCCCC=C)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C24H30O3
